US06156783
4-Trifluoromethanesulphonyloxy-1-azabicyclo[3.3.1]non-3-ene
A stirred solution of diisopropylamine (1.7 ml, 0.012 mole) in dry THF (20 ml) at -65° C. under argon was treated with 1.6M n-butyllithium in hexane (6.87 ml, 0.011 mole) and kept for 20 minutes, then treated dropwise over 10 minutes with a solution of 1-azabicyclo[3.3.1]nonan-4-one (1.4 g, 0.10 mole) in THF (20 ml). The mixture was stirred at -70° C. for 1.25 h, then treated with a solution of N,N-bis(trifluoromethanesulphonyl) aniline (3.93 g, 0.011 mole) in THF (20 ml) and the reaction mixture allowed to warm to room temperature and stir for 20 h. The solution was concentrated in vacuo and the residue chromatographed on neutral alumina eluting initially with 1:1 ether/60-80 petrol and increasing polarity to neat ether, then neat ethyl acetate to afford the title compound as a yellow oil (2.5 g), contaminated with some aniline product.

reactant | diisopropylamine | 0.012 mole, 1.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 0.011 mole, 6.87 ml | CCCCCC | C6H14
reactant | 1-azabicyclo[3.3.1]nonan-4-one | 0.10 mole, 1.4 g | N12CCC(C(CCC1)C2)=O | C8H13NO
reactant | N,N-bis(trifluoromethanesulphonyl) aniline | 0.011 mole, 3.93 g | FC(S(=O)(=O)N(C1=CC=CC=C1)S(=O)(=O)C(F)(F)F)(F)F | C8H5F6NO4S2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Trifluoromethanesulphonyloxy-1-azabicyclo[3.3.1]non-3-ene | 2.5 g | FC(S(=O)(=O)OC1=CCN2CCCC1C2)(F)F | C9H12F3NO3S
